US08486963B2
N-(2-Fluoro-4-methylsulfanyl-phenyl)-2-pyrimidin-4-ylmethyl-malonamic acid methyl ester
N-(2-Fluoro-4-methylsulfanyl-phenyl)-malonamic acid methyl ester (15.4 g, 59.9 mmol), 4-chloromethyl-pyrimidine (5.13 g, 39.9 mmol) and potassium hydroxide (3.36 g, 59.9 mmol) were dissolved in IMS (150 mL). The reaction mixture was stirred at room temperature for 16 hours then concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (30 mL), washed with water (20 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-100% ethyl acetate in cyclohexane) to yield the title compound as an off-white solid (4.9 g, 23%). LCMS (Method B): RT=3.02 min, M+H+=350.

reactant | N-(2-Fluoro-4-methylsulfanyl-phenyl)-malonamic acid methyl ester | 59.9 mmol, 15.4 g | COC(CC(=O)NC1=C(C=C(C=C1)SC)F)=O | C11H12FNO3S
reactant | 4-chloromethyl-pyrimidine | 39.9 mmol, 5.13 g | ClCC1=NC=NC=C1 | C5H5ClN2
reactant | potassium hydroxide | 59.9 mmol, 3.36 g | [OH-].[K+]
product | N-(2-Fluoro-4-methylsulfanyl-phenyl)-2-pyrimidin-4-ylmethyl-malonamic acid methyl ester | 4.9 g, 23% | COC(C(C(=O)NC1=C(C=C(C=C1)SC)F)CC1=NC=NC=C1)=O | C16H16FN3O3S
